US07598286B2
Step A: [4-(benzyloxy)phenyl][1-isopropyl-7-(trifluoromethyl)-1H-indazol-3-yl]methanone
To a solution of [4-(benzyloxy)phenyl](7-trifluoromethyl-1H-indazol-3-yl)methanone (0.20 g, 0.5 mmol) in 3 mL DMF was added in one portion sodium hydride (0.020 g, 0.5 mmol, 60% in oil). After the gas evolution ceased, 2-iodopropane (0.075 mL, 0.75 mmol) was added and the reaction was stirred at ambient to 50° C. for 24 hours. The cool reaction mixture was partitioned with EtOAc and 1 N HCl. The organic phase was washed with brine and dried (Na2SO4). Removal of the solvent in vacuo provided 0.18 g of the title compound which was used directly in the following step.

reactant | [4-(benzyloxy)phenyl](7-trifluoromethyl-1H-indazol-3-yl)methanone | 0.5 mmol, 0.20 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NNC2=C(C=CC=C12)C(F)(F)F | C22H15F3N2O2
reactant | sodium hydride | 0.5 mmol, 0.020 g | [H-].[Na+]
reactant | 2-iodopropane | 0.75 mmol, 0.075 mL | IC(C)C | C3H7I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [4-(benzyloxy)phenyl][1-isopropyl-7-(trifluoromethyl)-1H-indazol-3-yl]methanone | 0.18 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C1=NN(C2=C(C=CC=C12)C(F)(F)F)C(C)C | C25H21F3N2O2
